US06391863B1
Preparation of N-butanoyl-D-glucosamine
15 g of D-glucosamine hydrochloride are dissolved in 150 ml of methanol at ambient temperature. After addition of one equivalent of sodium methoxide and filtration of the sodium chloride formed, 14.8 ml of butyric anhydride are added progressively to the reaction medium, which is then stirred for 3 hours at ambient temperature. A precipitate is formed, which is collected by precipitation and then washed and recrystallized in 130 ml of hot ethanol. 8.8 g of N-butanoyl-D-glucosamine are thus recovered.

reactant | D-glucosamine hydrochloride | 15 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium methoxide | one equivalent | C[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | butyric anhydride | 14.8 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | methanol | 150 ml | CO | CH4O
product | N-butanoyl-D-glucosamine | C(CCC)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C10H19NO6
